US07745471B2
A 250 ml three necked flask, equipped with mechanical stirrer, Dean-Stark trap and condenser, was charged with 1,2-benzisoxazole-3-methanesulfonic acid methyl ester (10 grams, 0.044 mole, obtained from a commercial vendor) and toluene (100 ml). The suspension was heated to reflux while azeotropic distillation of water was performed, during 2 hours. The mixture was thereafter cooled under nitrogen atmosphere to 10° C. and DMF (0.36 ml, 0.0044 mole, 0.1 molar equivalent) was added to the mixture. Oxalyl chloride (4.1 ml, 0.047 mole, 1.07 molar equivalent) was then added drop-wise at 10-15° C. during 30 minutes and the reaction mixture was heated to 40° C. and was kept at this temperature for 4 hours. Ammonia (gas) (3.0 grams, 4 molar equivalents) was then bubbled into the reaction mixture at 10-18° C. during 2 hours and the reaction mixture was kept at ambient temperature overnight. The obtained precipitate was collected by filtration and slurried in 25% ammonium hydroxide (40 ml) at ambient temperature for 2 hours. The obtained solid was collected by filtration, washed with water and dried under reduced pressure at 50° C., overnight to obtain crude zonisamide (7.4 grams, 80.4% yield) having a purity of 98.7%, as determined by HPLC.

reactant | 1,2-benzisoxazole-3-methanesulfonic acid methyl ester | COS(=O)(=O)CC1=NOC2=C1C=CC=C2 | C9H9NO4S
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | DMF | 0.0044 mole, 0.1 molar, 0.36 ml | CN(C)C=O | C3H7NO
reactant | Oxalyl chloride | 0.047 mole, 1.07 molar, 4.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | water | O | H2O
product | zonisamide | 7.4 grams, 80.4% yield | C=1C=CC2=C(C1)C(=NO2)CS(=N)(=O)O | C8H8N2O3S
